US04046914
To a solution of sodium ethoxide in ethanol, prepared from sodium (1.46 g) and ethanol (35 ml) a solution of ethyl 2-bromohexadecanoate (20.3 g) in ethanol (25 ml) was added. After refluxing for 3 h water was added and the product was taken up in ether. After evaporation of the ether and fractionation of the residue there was obtained 10.8 g ethyl 2-ethoxyhexadecanoate b.p. 112°-114° (0.01 mm), nD23 1.4393.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 1.46 g | [Na] | Na
reactant | ethyl 2-bromohexadecanoate | 20.3 g | BrC(C(=O)OCC)CCCCCCCCCCCCCC | C18H35BrO2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | ethyl 2-ethoxyhexadecanoate | 10.8 g | C(C)OC(C(=O)OCC)CCCCCCCCCCCCCC | C20H40O3
